US07956028B2
Preparation of Trehalose Solution:
25.48 g of trehalose dihydrate was carefully weighed and transferred into a sterile polypropylene bottle, to which 350 ml of purified water was added at room temperature and stirred slowly until a clear solution was obtained. To the clear solution, 0.1N HCl was added drop by drop to adjust the pH to 3.9, then the volume was adjusted with purified water to obtain 400 ml final volume. The pH was measured and found to be 4.2. The solution was filtered through a 0.22-micron filter and was used directly to dilute the protein solution.

reactant | trehalose dihydrate | 25.48 g | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O.O.O
reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | HCl | 0.1N | Cl | ClH
solvent | water | O | H2O
solvent | water | 350 ml | O | H2O
product | Trehalose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O | C12H22O11
